US06812227B2
According to the procedure of Step 2 of Example 248, Mitsunobu coupling of 0.10 g (0.288 mmoL) of methyl (3S)-4-[(4-hydroxyphenyl)sulfonyl]-2,2-dimethyl-3-thiomorpholinecarboxylate and 0.031 g (0.363 mmol) of 2-butyne-1,4-diol gave 0.078 g of methyl (3S)-4-({4-[(4-hydroxy-2-butynyl)oxy]phenyl}sulfonyl)-2,2-dimethyl-3-thiomorpholine carboxylate as a colorless oil.

reactant | methyl (3S)-4-[(4-hydroxyphenyl)sulfonyl]-2,2-dimethyl-3-thiomorpholinecarboxylate | 0.10 g | OC1=CC=C(C=C1)S(=O)(=O)N1[C@H](C(SCC1)(C)C)C(=O)OC | C14H19NO5S2
reactant | 2-butyne-1,4-diol | 0.363 mmol, 0.031 g | C(C#CCO)O | C4H6O2
product | methyl (3S)-4-({4-[(4-hydroxy-2-butynyl)oxy]phenyl}sulfonyl)-2,2-dimethyl-3-thiomorpholine carboxylate | 0.078 g | OCC#CCOC1=CC=C(C=C1)S(=O)(=O)N1[C@H](C(SCC1)(C)C)C(=O)OC | C18H23NO6S2
